US06297239B1
Step D: Preparation of Acetic Acid (4-Cyano-3-fluoro-phenyl)-(3-methyl-3H-imidazol-4-yl)-methyl Ester
Acetic acid (4-cyano-3-fluoro-phenyl)-(1-trityl-1H-imidazol-4-yl)-methyl ester (4.60 g, 9.17 mmol) and dimethyl sulfate (0.83 mL, 8.81 mmol) were dissolved in EtOAc (20 mL) and heated at 60° C. overnight under Ar. The reaction was concentrated in vacuo, diluted with MeOH (30 mL), and refluxed for 1 h. Concentrated in vacuo and purified using SiO2 chromatography (0.5-4% MeOH/CH2Cl2 with NH4OH) to give the title compound.

reactant | Acetic acid (4-cyano-3-fluoro-phenyl)-(1-trityl-1H-imidazol-4-yl)-methyl ester | 9.17 mmol, 4.60 g | C(#N)C1=C(C=C(C=C1)C(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC(C)=O)F | C32H24FN3O2
reactant | dimethyl sulfate | 8.81 mmol, 0.83 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | Acetic Acid (4-Cyano-3-fluoro-phenyl)-(3-methyl-3H-imidazol-4-yl)-methyl Ester | C(#N)C1=C(C=C(C=C1)C(C=1N(C=NC1)C)OC(C)=O)F | C14H12FN3O2
